US09382188B2
A) ((2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-yl)oxy)(triisopropyl)silane
To a solution of 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)biphenyl-2-ol (4.01 g) and N,N-diisopropylethylamine (5.4 mL) in DMF (30 mL) was added chloromethyl methyl ether (1.5 mL), and the mixture was stirred at room temperature for 3 hr. The mixture was further stirred at 50° C. for 1 hr, and saturated aqueous ammonium chloride solution was added to the reaction mixture. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was dissolved in DMF (30 mL), and N,N-diisopropylethylamine (2.7 mL) and chloromethyl methyl ether (1.0 mL) were added. The reaction mixture was stirred at room temperature for 2 hr, and saturated aqueous ammonium chloride solution was added. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (3.50 g) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)biphenyl-2-ol | 4.01 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O[Si](C(C)C)(C(C)C)C(C)C)O | C22H31FO3Si
reactant | N,N-diisopropylethylamine | 5.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 1.5 mL | COCCl | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | ((2′-fluoro-5′-methoxy-2-(methoxymethoxy)biphenyl-4-yl)oxy)(triisopropyl)silane | 3.50 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)OCOC | C24H35FO4Si
